US06632810B2
Synthesis of N,N′-bis(4,5,6-trimethoxyindole-2-carbonyl)homopiperazine:
4,5,6-Trimethoxyindole-2-carboxylic acid (290 mg) and homopiperazine (58 mg) were reacted in the same manner as in Preparation Example 37 to obtain the title compound.

reactant | 4,5,6-Trimethoxyindole-2-carboxylic acid | 290 mg | COC1=C2C=C(NC2=CC(=C1OC)OC)C(=O)O | C12H13NO5
reactant | homopiperazine | 58 mg | N1CCNCCC1 | C5H12N2
product | N,N′-bis(4,5,6-trimethoxyindole-2-carbonyl)homopiperazine | COC1=C2C=C(NC2=CC(=C1OC)OC)C(=O)N1CCN(CCC1)C(=O)C=1NC2=CC(=C(C(=C2C1)OC)OC)OC | C29H34N4O8
